US08034811B2
O-(3-Cyclopentyl-propyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 31. Starting materials: N-hydroxyphthalimide and 3-cyclopentyl-1-propanol (Aldrich). 13C-NMR (CDCl3) δ 76.5, 40.0, 32.7, 32.4, 27.7, 25.2.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 3-cyclopentyl-1-propanol | C1(CCCC1)CCCO | C8H16O
product | O-(3-Cyclopentyl-propyl)-hydroxylamine | C1(CCCC1)CCCON | C8H17NO
